US04328155
To a mixture of N-(1-ethyl-2-pyrrolidinylmethyl)-2-methoxy-4-methyl-5-aminobenzamide (1.0 g), dry methylene chloride (20 ml), and triethylamine (693 mg) is added dropwise a mixture of t-butylaminosulfonyl chloride (707 mg) and methylene chloride (5 ml) with ice cooling and stirring. After stirring for 15 minutes, the reaction mixture is mixed with aqueous sodium hydrogencarbonate and shaken with methylene chloride. The organic layer is washed with water, dried over sodium sulfate, and evaporated to remove the solvent. The residue is chromatographed on a column of alumina and eluted with 0-2% methanol/methylene chloride. The eluate is recrystallized from ethyl acetate/isopropyl ether to give N-(1-ethyl-2-pyrrolidinylmethyl)-2-methoxy-4-methyl-5-t-butylaminosulfonamidobenzamide (1.0 g) as crystals melting at 167° to 168° C.

reactant | N-(1-ethyl-2-pyrrolidinylmethyl)-2-methoxy-4-methyl-5-aminobenzamide | 1.0 g | C(C)N1C(CCC1)CNC(C1=C(C=C(C(=C1)N)C)OC)=O | C16H25N3O2
reactant | t-butylaminosulfonyl chloride | 707 mg | C(C)(C)(C)NS(=O)(=O)Cl | C4H10ClNO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 693 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(1-ethyl-2-pyrrolidinylmethyl)-2-methoxy-4-methyl-5-t-butylaminosulfonamidobenzamide | 1.0 g | C(C)N1C(CCC1)CNC(C1=C(C=C(C(=C1)NS(=O)(=O)NC(C)(C)C)C)OC)=O | C20H34N4O4S
